datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN1C=CC(=[NH:10])C=C1.[O-]c1ccc([O:21][H:20])cc1Cl>>CN1C=CC(=[NH+:10][H:20])C=C1.[O-]c1ccc([O-:21])cc1Cl 10=20;20,21=21",
"C#CC[N:10]1CCOCC1.C[n+]1cccc2ccc([O:21][H:20])cc21>>C#CC[N+:10]1([H:20])CCOCC1.C[n+]1cccc2ccc([O-:21])cc21 10=20;20,21=21",
"C1CCN([N+:21]2([H:20])CCCC2)C1.[O-]c1nc(C(F)(F)F)nc2c1[nH]c[n:10]2>>C1CCN([N:21]2CCCC2)C1.[O-]c1nc(C(F)(F)F)nc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"Oc1ccc2c[n+:21]([H:20])ccc2c1.c1ccc(CC2CCC[NH:10]2)cc1>>Oc1ccc2c[n:21]ccc2c1.c1ccc(CC2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.O=C([O-])c1cc[n:10]cc1>>CC1=[N:21]CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.O=C([O-])c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1CCCC(C(C)C(=O)[O:21][H:20])C1.CS(=O)(=O)[N-:10]C(N)=O>>CC1CCCC(C(C)C(=O)[O-:21])C1.CS(=O)(=O)[N:10](C(N)=O)[H:20] 10=20;20,21=21",
"C[C@@H]1CCCC[C@@H]1[NH2:10].Cc1cccc([NH2+:21][H:20])c1C>>C[C@@H]1CCCC[C@@H]1[NH2+:10][H:20].Cc1cccc([NH2:21])c1C 10=20;20,21=21",
"CCCCC[NH+:21](Cc1ccc(C)cc1)[H:20].C[NH+](C)C[C@@H]1[C@@H]([NH2:10])[C@]2(C)CC[C@@H]1C2(C)C>>CCCCC[NH:21]Cc1ccc(C)cc1.C[NH+](C)C[C@@H]1[C@@H]([NH2+:10][H:20])[C@]2(C)CC[C@@H]1C2(C)C 10=20;20,21=21",
"Cn1cncc1CC(C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cn1cncc1CC(C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CC1CC(=O)N([O-:10])C1(C)C.COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:21]1[H:20]>>CC1CC(=O)N([O:10][H:20])C1(C)C.COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n:21]1 10=20;20,21=21",
"CNNC1CC[N:10](C)CC1.C[NH+](C)CCCNc1cc[n+:21]([H:20])c2cc([N+](=O)[O-])ccc12>>CNNC1CC[N+:10](C)([H:20])CC1.C[NH+](C)CCCNc1cc[n:21]c2cc([N+](=O)[O-])ccc12 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[O-]c1cc(C[NH2:10])ccc1F>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[O-]c1cc(C[NH2+:10][H:20])ccc1F 10=20;20,21=21",
"CC(Cc1ccccc1)[NH+:21](C)[H:20].Cc1cc(I)c([O-:10])c(I)c1>>CC(Cc1ccccc1)[NH:21]C.Cc1cc(I)c([O:10][H:20])c(I)c1 10=20;20,21=21",
"COC1=C[N+:21]([H:20])=C(N)S1.COc1ccc([O-:10])cc1>>COC1=C[N:21]=C(N)S1.COc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C1CNC[NH:10]C1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CNC[NH+:10]([H:20])C1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)c1ccc([O-])cc1.Cn1cnc2cc([O:21][H:20])ccc21>>CC(C)[NH+:10](CC(=O)c1ccc([O-])cc1)[H:20].Cn1cnc2cc([O-:21])ccc21 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.Cn1ncc2c[n+:21]([H:20])cnc21>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.Cn1ncc2c[n:21]cnc21 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@H](C(=O)[O-:10])C1(C)C.Cc1ccc(C(=O)[O:21][H:20])cc1Br>>CC(=O)[C@@H]1C[C@H](C(=O)[O:10][H:20])C1(C)C.Cc1ccc(C(=O)[O-:21])cc1Br 10=20;20,21=21",
"Cn1ncnc1/N=N/[O:21][H:20].c1ccc2cc([S-:10])ncc2c1>>Cn1ncnc1/N=N/[O-:21].c1ccc2cc([S:10][H:20])ncc2c1 10=20;20,21=21",
"COc1ccc(S(=O)(=O)[N-:10]Cc2ccccc2)cc1.Cc1cc(C(=O)[O:21][H:20])ccc1[N+](=O)[O-]>>COc1ccc(S(=O)(=O)[N:10](Cc2ccccc2)[H:20])cc1.Cc1cc(C(=O)[O-:21])ccc1[N+](=O)[O-] 10=20;20,21=21",
"CN(C)c1ccc(C(=S)[N-:10]c2ccccc2)cc1.O=[PH](C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O:21][H:20]>>CN(C)c1ccc(C(=S)[N:10](c2ccccc2)[H:20])cc1.O=[PH](C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)C(CC(C)C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)C(CC(C)C)[NH2+:10][H:20] 10=20;20,21=21",
"COP(=O)([O-])[N:21](S(=O)(=O)c1ccccc1)[H:20].[NH3+]CCCCCCCCCCCC(=O)[O-:10]>>COP(=O)([O-])[N-:21]S(=O)(=O)c1ccccc1.[NH3+]CCCCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.c1cc2c(c([NH2+:21][H:20])c1)CCCC2>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.c1cc2c(c([NH2:21])c1)CCCC2 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C1CCCCC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])[C@H]1CCCC[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CCCCOc1ccc(OCCC[N:10]2CCOCC2)cc1.CCCC[N+:21](CC[S-])(CCCC)[H:20]>>CCCCOc1ccc(OCCC[N+:10]2([H:20])CCOCC2)cc1.CCCC[N:21](CC[S-])CCCC 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH2:10].CCC(NO)=[N+:21](O)[H:20]>>CC(C)C(C(=O)[O-])[NH2+:10][H:20].CCC(NO)=[N:21]O 10=20;20,21=21",
"CN1c2ccccc2Nc2c1cccc2[O:21][H:20].Cc1ccc(S(=O)(=O)[N-:10]CC(=O)[O-])cc1>>CN1c2ccccc2Nc2c1cccc2[O-:21].Cc1ccc(S(=O)(=O)[N:10](CC(=O)[O-])[H:20])cc1 10=20;20,21=21",
